US08349880B2
N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-9-(4-(2,2-difluoroethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(5-chloro-1-(4-(2,2-difluoroethoxy)phenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (1.44 g, 2.61 mmol, sodium iodide (1.96 g, 13.1 mmol), and diisoproplylethylamine (2.28 mL, 13.1 mmol) in acetone (30 mL) was heated in a sealed vessel at 100° C. for 16 h. The reaction was concentrated in vacuo. The crude product was purified using silica gel column chromatography (50% EtOAc/chloroform). The purified product was recrystallized from EtOAc/hexane to afford 279 mg (20% yield) of the titled compound as an off-white crystalline white solid. LC-MS (M+H)+ 515.3. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.51 (d, J=1.5 Hz, 1 H), 7.42 (d, J=2.4 Hz, 1 H), 7.12 (d, J=8.9 Hz, 2 H), 7.09 (d, J=8.5 Hz, 1 H), 7.02 (d, J=1.5 Hz, 1 H), 6.92 (d, J=8.5 Hz, 2 H), 6.84 (dd, J=8.4, 2.3 Hz, 1 H), 6.67 (s, 1 H), 6.10 (tt, J=55.1, 4.1 Hz, 1 H), 4.26 (d, J=8.5 Hz, 1 H), 4.15-4.25 (m, 4 H), 3.80 (s, 3 H), 2.16-2.30 (m, 1 H), 2.05-2.13 (m, 1 H), 1.83-2.02 (m, 4 H).

reactant | 5-(5-chloro-1-(4-(2,2-difluoroethoxy)phenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | ClCCCCC(C1=CC=C(C=C1)OCC(F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C25H26Cl2F2N6O2
reactant | sodium iodide | 13.1 mmol, 1.96 g | [I-].[Na+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-9-(4-(2,2-difluoroethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 279 mg, 20% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C(C(CCCC2)C2=CC=C(C=C2)OCC(F)F)=N1)OC | C25H25ClF2N6O2
